US06921763B2
N1-(4-bromophenyl)-2-fluoro-1-benzenecarbothioamide (1.50 g, 0.00485 mol) and a 1M solution of hydrazine in tetrahydrofuran (6.3 mL, 0.0063 mol) were heated in absolute ethanol (25 mL) at reflux under nitrogen atmosphere for 14 hours. Additional 3 mL of a 1M solution of hydrazine in tetrahydrofuran was added and the stirring at reflux was continued for another 6 hours. The reaction mixture was cooled to ambient temperature, the solvent was removed under reduced pressure and the residue partitioned between saturated solution of sodium bicarbonate in water (50 mL) and ethyl acetate (50 mL). The organic phase was washed with brine, dried with magnesium sulfate and concentrated to yield N1-(4-bromophenyl)-2-fluoro-1-benzenecarbohydrazonamide (1.54 g, 0.0050 mol) as a tan solid. TLC (ethyl acetate/heptane 1:3) Rf 0.10.

reactant | N1-(4-bromophenyl)-2-fluoro-1-benzenecarbothioamide | 0.00485 mol, 1.50 g | BrC1=CC=C(C=C1)NC(=S)C1=C(C=CC=C1)F | C13H9BrFNS
reactant | hydrazine | NN | H4N2
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.0063 mol, 6.3 mL | O1CCCC1 | C4H8O
product | N1-(4-bromophenyl)-2-fluoro-1-benzenecarbohydrazonamide | 0.0050 mol, 1.54 g | BrC1=CC=C(C=C1)NC(=NN)C1=C(C=CC=C1)F | C13H11BrFN3
